US08039469B2
Step 2: Preparation of 3-{[4-(4-Amino-phenyl)-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester
To a microwave processing tube was added dimethoxyethane (15 mL), aqueous Na2CO3 (2 molar)(4 mL, 8 mmol, 2 eq), (Ph3P)4Pd (317 mg, 0.55 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (1.81 g, 8.30 mmol, 1.5 eq) and 3-[(4-Chloro-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester (1.3 g, 5.53 mmol) and the vessel was sealed. The mixture was heated to 140° C. for 60 minutes. The solvents were removed and the crude compound was purified by silica gel chromatography using CH2Cl2/Ethyl acetate (10:1) and later CH2Cl2/MeOH/NH3 (15:1:0.1) to give the product as a off-white solid (1.3 g, 53% yield).

reactant | Na2CO3 | 8 mmol, 2 molar, 4 mL, 2 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 8.30 mmol, 1.81 g, 1.5 eq | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | 3-[(4-Chloro-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester | 5.53 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CC(C1)CNC1=NC(=NC(=N1)Cl)N1CCOCC1 | C16H25ClN6O3
catalyst | (Ph3P)4Pd | 0.55 mmol, 317 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
product | 3-{[4-(4-Amino-phenyl)-6-morpholin-4-yl-[1,3,5]triazin-2-ylamino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester | 1.3 g, 53% yield | C(C)(C)(C)OC(=O)N1CC(C1)CNC1=NC(=NC(=N1)C1=CC=C(C=C1)N)N1CCOCC1 | C22H31N7O3
